US04749703
Preparation of 11-[4-[4-(4-fluorophenyl)-1-piperazinyl]butyrylamino]-2-methyl-6,11-dihydrodibenzo[b,e]thiepin
A mixture of 10 g of 11-(4-chlorobutyrylamino)-2-methyl-6,11-dihydrodibenzo[b,e]thiepin, 10 g of 1-(4-fluorophenyl)piperazine, 10 g of sodium iodide and 100 ml of dimethylformamide is stirred at 100° C. for 1.5 hours. After the reaction mixture is cooled to room temperature, 100 ml of 10% aqueous potassium carbonate solution is added and the solution is extracted with three 300-ml portions of chloroform. The combined extracts are treated in substantially the same manner as in Example 1(1) to give 9.2 g of the title compound. m.p. 205°-207° C. (recrystallized from ethyl acetate);

reactant | 11-(4-chlorobutyrylamino)-2-methyl-6,11-dihydrodibenzo[b,e]thiepin | 10 g | ClCCCC(=O)NC1C2=C(SCC3=C1C=CC=C3)C=CC(=C2)C | C19H20ClNOS
reactant | 1-(4-fluorophenyl)piperazine | 10 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | sodium iodide | 10 g | [I-].[Na+]
reactant | potassium carbonate | 100 ml | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 11-[4-[4-(4-fluorophenyl)-1-piperazinyl]butyrylamino]-2-methyl-6,11-dihydrodibenzo[b,e]thiepin | 9.2 g | FC1=CC=C(C=C1)N1CCN(CC1)CCCC(=O)NC1C2=C(SCC3=C1C=CC=C3)C=CC(=C2)C | C29H32FN3OS
